US06458810B1
A solution of 3-fluoro-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (1.0 g, 2.6 mmol) and Pd/C (10%, 0.1 g) in methanol (100 mL) is shaken under hydrogen (50-60 psi) for 3 hours. The suspension is filtered through a pad of Celite and washed with methanol to give 3-(4-amino-1,3-dioxoisoindolin-2-yl)-3-fluoro-2,6-dioxo-5-acetoxypiperidine which is further purified by column chromatography.

reactant | 3-fluoro-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 2.6 mmol, 1.0 g | FC1(C(NC(C(C1)OC(C)=O)=O)=O)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C15H10FN3O8
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-(4-amino-1,3-dioxoisoindolin-2-yl)-3-fluoro-2,6-dioxo-5-acetoxypiperidine | NC1=C2C(N(C(C2=CC=C1)=O)C1(C(NC(C(C1)OC(C)=O)=O)=O)F)=O | C15H12FN3O6
